US08207334B2
2-Fluorobenzonitrile (605 mg, 5 mmol) and 85% aqueous hydrazine hydrate (352 mg, 6 mmol) were mixed with 1-butanol (3 mL). The mixture was heated at reflux with stirring for 5 h then cooled to room temperature. The resulting precipitate was collected by filtration and washed with dichloromethane and the filter cake was dried in vacuo to give 3-amino benzpyrazole (293 mg, 44%).

reactant | 2-Fluorobenzonitrile | 5 mmol, 605 mg | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | hydrazine hydrate | 6 mmol, 352 mg | O.NN
solvent | 1-butanol | 3 mL | C(CCC)O | C4H10O
product | 3-amino benzpyrazole | 293 mg, 44% | NC1=NNC2=C1C=CC=C2 | C7H7N3
